US05049558
N.m.r. in solvent C: 2.9 (s, 3H), 3.5 (t, 2H), 4.5 t, 2H , 6.65 s, 1H , 7.3 (s, 15H). 6. N.m.r. in solvent C: 3 0 (s, 3H), 3.5-3.7 (m, 4H), 4.3 (m, 2H), 4.7 (m, 2H), 5.1 (d, 1H), 5.9 (d, 1H) 6.8 (s, 1H), 7.4 (s, 15H). 7. N.m.r. in solvent A: 3.4 (s, 2H), 3.9 (d, 1H), 4.4 (d, 1H), 4.8 (s, 2H , 4.9 (d, 1H), 5.7 (d, 1H), 6.8 (s, 1H), 7.2 (s, 15H). 8. The starting material may be prepared as follows. Reaction of ethyl 2-(2-tritylaminothiazol-4-yl)-2-[(Z)-2-hydroxyethoxyimino]acetate with diethylamino sulphur trifluoride and hydrolysis of the resulting ester gave 2-(2-tritylaminothiazol-4-yl)-2[(Z)-2-fluoroethoxyimino]acetic acid.

reactant | ethyl 2-(2-tritylaminothiazol-4-yl)-2-[(Z)-2-hydroxyethoxyimino]acetate | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)OCC)=N/OCCO | C28H27N3O4S
reactant | diethylamino sulphur trifluoride | C(C)N(CC)S(F)(F)F | C4H10F3NS
product | 2-(2-tritylaminothiazol-4-yl)-2[(Z)-2-fluoroethoxyimino]acetic acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)O)=N/OCCF | C26H22FN3O3S
